US04508658
α-Cyano-phenylacetic acid-pentachlorophenyl ester
8 g. (0.05 moles) of α-cyano-phenylacetic acid are dissolved in 80 ml. of dichloromethane. 10.3 g. (0.05 moles) of dicyclohexylcarbodiimide and 13 g. (0.05 moles) of pentachlorophenol are added dropwise dissolved in 50 ml. of dichloromethane. The mixture is stirred for 4 hours, cooled to 0° C. and the precipitated dicyclohexylurea is filtered. The filtered substance is washed twice on the filter with 15 ml. of dichloromethane. The combined organic layers are distilled off and the precipitated ester is taken up with 20 ml. of diisopropyl ether and the crystals are filtered, washed twice with diisopropyl ether and dried.

reactant | α-cyano-phenylacetic acid | 0.05 moles | C(#N)C(C(=O)O)C1=CC=CC=C1 | C9H7NO2
reactant | dicyclohexylcarbodiimide | 0.05 moles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pentachlorophenol | 0.05 moles | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
solvent | dichloromethane | ClCCl | CH2Cl2
product | α-Cyano-phenylacetic acid-pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(C(C#N)C1=CC=CC=C1)=O)Cl)Cl)Cl)Cl | C15H6Cl5NO2
